US06977261B2
Step (1): 7-bromo-2-(3-chlorobenzyl)-2H-3,8-diazaisoquinolin-1-one
The alkylation of 7-bromo-1-hydroxy-3,8-diazaisoquinoline (1.00 g, 4.46 mmol) using 3-Chlorobenzyl bromide (1.37 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethyl-formamide is carried out as previously described in Example 1, Step (1). Trituration with hexanes/ethyl acetate 10:1 will afford the desired product. Step 2): 2-(3-chlorobenzyl)-7-(3-phenylprop-1-ynyl)-2H-3,8-diazaisoquinolin-1-one

reactant | 7-bromo-1-hydroxy-3,8-diazaisoquinoline | 4.46 mmol, 1.00 g | BrC1=CC=C2C=NN=C(C2=N1)O | C7H4BrN3O
reactant | 3-Chlorobenzyl bromide | 6.69 mmol, 1.37 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 7-bromo-2-(3-chlorobenzyl)-2H-3,8-diazaisoquinolin-1-one | BrC1=CC=C2C=NN(C(C2=N1)=O)CC1=CC(=CC=C1)Cl | C14H9BrClN3O
